US07534797B2
The CCl4 (45 ml) solution of 6-chloro-7-methyl-2-phenylquinoline (753.3 mg, 2.969 mmol), AIBN (48.8 mg, 0.1 eq.) and NBS (898.4 mg, 1.7 eq.) was heated at 80° C. under N2 for 8 h. After that time, the reaction mixture was concentrated in vacuo and the residue was dissolved in EtOAc (60 ml), washed successively with H2O (30 mL), saturated NaS2O3 (30 mL), H2O (30 mL), and brine (30 mL). The organic extract was then dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in DMSO (105 mL), and then NaHCO3 (2495 mg, 10 eq.) was added. The reaction mixture was stirred at 90° C. for 3 h. Water (140 mL) was added and the mixture was extracted with EtOAc (3×200 mL). The combined organic extracts were washed with H2O (4×60 mL) and brine (60 mL), and dried (MgSO4), filtered, and concentrated in vacuo. The residue was recrystallized from CHCl3/hexane (20:80, 10 mL) to give 6-chloro-2-phenylquinoline-7-carbaldehyde as pale-yellow solid; 1H NMR (CDCl3, 400 MHz) δ 7.51-7.58 (m, 3H), 7.93 (s, 1H), 8.03 (d, 1H, J=8.8 Hz), 8.18-8.20 (m, 3H), 8.75 (s, 1H), 10.63 (s, 1H); MS(ES+): 268.1/270.0 (M/M+2).

reactant | 6-chloro-7-methyl-2-phenylquinoline | 2.969 mmol, 753.3 mg | ClC=1C=C2C=CC(=NC2=CC1C)C1=CC=CC=C1 | C16H12ClN
reactant | AIBN | 48.8 mg, 0.1 eq. | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NBS | 898.4 mg, 1.7 eq. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NaHCO3 | 2495 mg, 10 eq. | C(=O)(O)[O-].[Na+]
solvent | Water | 140 mL | O | H2O
solvent | CCl4 | 45 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-chloro-2-phenylquinoline-7-carbaldehyde | ClC=1C=C2C=CC(=NC2=CC1C=O)C1=CC=CC=C1 | C16H10ClNO
